US07943636B2
Methanesulfonic anhydride (0.160 g, 0.922 mmol) was added to a slurry of 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol (0.300 g, 0.922 mmol) in chloroform (10 mL). After 16 hours, 2M aqueous sodium carbonate was added and the biphasic mixture was stirred for 30 minutes resulting in a white precipitate. The mixture was extracted with 10% methanol in dichloromethane. The solution was concentrated. The residue was purified via automated flash chromatography and recrystallized from acetonitrile to provide 0.165 g of 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]-1-(methylsulfonyl)piperidin-4-ol as a white solid, mp 268-270° C.

reactant | Methanesulfonic anhydride | 0.922 mmol, 0.160 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]piperidin-4-ol | 0.922 mmol, 0.300 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC2(CCNCC2)O)CC | C18H23N5O
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]-1-(methylsulfonyl)piperidin-4-ol | 0.165 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC2(CCN(CC2)S(=O)(=O)C)O)CC | C19H25N5O3S
